US04329495
p-Chlorophenylmethylenemalonic Acid
Under nitrogen, malonic acid (powdered, 20 g., 0.192 mole) was mixed with acetyl chloride (15 g., 0.192 mole) and heated to 65° C. in an oil bath. p-Chlorobenzaldehyde (21.6 g., 0.153 mole) was added and the mixture further heated to 80° C. A yellow, slowly refluxing solution resulted, followed by copious precipitation of solids. The mixture was cooled and product recovered by filtration, resuspended in water, stirred for 5 minutes and refiltered to yield title product [21.1 g.; 61% of theory; m.p. 215° C. (dec.)].

reactant | malonic acid | 0.192 mole, 20 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | acetyl chloride | 0.192 mole, 15 g | C(C)(=O)Cl | C2H3ClO
reactant | p-Chlorobenzaldehyde | 0.153 mole, 21.6 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | p-Chlorophenylmethylenemalonic Acid | 21.1 g, 61% | ClC1=CC=C(C=C1)C=C(C(=O)O)C(=O)O | C10H7ClO4
